US06034248
Ferric chloride (0.2 g) and activated carbon (2.0 g) were added to a solution of 1-(4-nitrophenyl)-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (20.5 g) in methanol-tetrahydrofran (75 ml:75 ml), to which hydrazine hydrate (8.0 ml) was added dropwise over the period of 10 minutes. After the mixture was refluxed with stirring for 14 hours, ferric chloride (0.2 g), activated carbon (2.0 g) and hydrazine hydrate (8.0 ml) were added thereto and the reaction mixture was refluxed with stirring for further 6 hours. The activated carbon was filtered off and washed with methanol (100 ml). The filtrate and the washing were combined and distilled off under reduced pressure. The residue thus obtained was dissolved in ethyl acetate (700 ml). The ethyl acetate layer was washed with water (200 ml×4), dried over anhydrous magnesium sulfate and distilled off under reduced pressure to give 1-(4-aminophenyl)-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (18.1 g, 95%) as a pale yellow powder.

reactant | 1-(4-nitrophenyl)-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 20.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O | C18H13F4N3O4
reactant | hydrazine hydrate | 8.0 ml | O.NN
reactant | hydrazine hydrate | 8.0 ml | O.NN
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-aminophenyl)-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 18.1 g, 95% | NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O | C18H15F4N3O2
